US07772432B2
Using an analogous procedure to that described in Example 18, 3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoic acid was reacted with 3-amino-4-methyl-N-(3-morpholinophenyl)benzamide to give 3-[3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzamido]-4-methyl-N-(3-morpholinophenyl)benzamide in 42% yield; NMR Spectrum: (DMSOd6) 1.38 (s, 9H), 1.54 (m, 2H), 1.91 (m, 2H), 2.27 (s, 3H), 3.06 (t, 4H), 3.2 (m, 2H), 3.64 (m, 2H), 3.72 (t, 4H), 5.01 (m, 1H), 6.66 (m, 1H), 7.18 (m, 2H), 7.28 (d, 1H), 7.4 (m, 3H), 7.56 (m, 2H), 7.77 (m, 1H), 7.92 (s, 1H), 9.98 (s, 1H), 10.01 (s, 1H).

reactant | 3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=C(C(=O)O)C=CC1 | C17H23NO5
reactant | 3-amino-4-methyl-N-(3-morpholinophenyl)benzamide | NC=1C=C(C(=O)NC2=CC(=CC=C2)N2CCOCC2)C=CC1C | C18H21N3O2
product | 3-[3-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzamido]-4-methyl-N-(3-morpholinophenyl)benzamide | 42% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=C(C(=O)NC=2C=C(C(=O)NC3=CC(=CC=C3)N3CCOCC3)C=CC2C)C=CC1 | C35H42N4O6
